US04814001
22.5 g (0.076 mol) of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole and 8 g (0.1 mol) of pyridine are taken in 200 ml of acetonitrile, and 13.2 g (0.128 mol) of cyanoacetyl chloride are added dropwise at 20°-25° C., while stirring and cooling. The reaction mixture is stirred at room temperature for a further two hours and then poured into water. After extraction with methylene chloride and drying of the organic phase over sodium sulphate, the solvent is distilled off in vacuo. The crystalline residue is stirred with a mixture of ligroin and diisopropyl ether and filtered off with suction. 22 g (80% of theory) of 5-cyanoacetylamino-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-pyrazole of melting point 169°-175° C. are obtained.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole | 0.076 mol, 22.5 g | NC1=CC=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C10H6Cl2F3N3
reactant | pyridine | 0.1 mol, 8 g | N1=CC=CC=C1 | C5H5N
reactant | cyanoacetyl chloride | 0.128 mol, 13.2 g | C(#N)CC(=O)Cl | C3H2ClNO
reactant | water | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 5-cyanoacetylamino-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-pyrazole | 22 g, 80% | C(#N)CC(=O)NC1=CC=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H7Cl2F3N4O
